

.title SN74LS00_sim
.include SN74LS00.cir

Va a 0 dc 0 ac 0 PULSE(0v +5v 0s 1s 1s  5s 12s)
Vb b 0 dc 0 ac 0 PULSE(0v +5v 0s 1s 1s 11s 24s)

XSN74LS00 y a b Vcc GND SN74LS00

.control
  tran 1s 100s
  * plot a b
.endc
